US07935703B2
2-(4-Fluoro-benzyloxy)-propionic acid ethyl ester
In a screw-cap vial was added sodium hydride (60% in mineral oil, 175 mg, 4.36 mmol) and tetrahydrofuran (1 mL). The suspension was cooled to 0° C. A solution of ethyl lactate (0.46 mL, 3.97 mmol) in tetrahydrofuran (3.0 mL) was added to the above suspension and the resulting reaction mixture was stirred at room temperature for 15 min. To this mixture added 4-fluoro-benzyl bromide (0.75 g, 3.97 mmol) solution in tetrahydrofuran (4 mL) followed by tetrabutyl ammonium iodide (10 mg). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified on silica gel using hexanes:ethyl acetate=98:2 to hexanes:ethyl acetate=92:8 in a gradient fashion, to isolate the desired product as clear oil (0.380 g, 42%). 1H NMR (300 MHz, CDCl3): δ 7.31 (m, 2H), 6.97 (m, 2H), 4.59 (d, 1H), 4.37 (d, 1H), 4.16 (q, 2H), 4.01 (q, 1H), 1.39 (d, 3H), 1.25 (t, 3H)

reactant | sodium hydride | 4.36 mmol, 175 mg | [H-].[Na+]
reactant | ethyl lactate | 3.97 mmol, 0.46 mL | C(C(O)C)(=O)OCC | C5H10O3
reactant | 4-fluoro-benzyl bromide | 3.97 mmol, 0.75 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | tetrabutyl ammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-(4-Fluoro-benzyloxy)-propionic acid ethyl ester | 0.380 g, 42% | C(C)OC(C(C)OCC1=CC=C(C=C1)F)=O | C12H15FO3
